US08048862B2
The solution of compound 2-(N-tert-butylsulfamoyl)-N-phenylacetamide (2.5 g, 9.2 mmol.) in 40 mL of TFA was stirred at room temperature overnight. TLC analysis showed the reaction complete. Excess TFA was removed in vacuo. The value of pH was adjusted to 7-8 with NaHCO3. The mixture was extracted with EtOAc (30 mL×3). The combined organic layer was over Na2SO4, concentrated to afford compound 2-(sulfamoyl)-N-phenylacetamide (1.9 g, 96%), which was used directly without purification.

reactant | 2-(N-tert-butylsulfamoyl)-N-phenylacetamide | 9.2 mmol, 2.5 g | C(C)(C)(C)NS(=O)(=O)CC(=O)NC1=CC=CC=C1 | C12H18N2O3S
solvent | TFA | 40 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(sulfamoyl)-N-phenylacetamide | 1.9 g, 96% | S(N)(=O)(=O)CC(=O)NC1=CC=CC=C1 | C8H10N2O3S
